US05770614
Synthesis of (E)-2-[2-(2-quinolinyloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide
(E)-2-[2-(hydroxymethyl)phenyl]-2-methoxyimino-N-methylacetamide (0.44 g, 2 mmol) was dissolved in dry DMF (4 ml). 60% sodium hydride (0.10 g, 2.4 mmol) was added at room temperature, the mixture was stirred for 10 minutes, and then 2-chloroquinoline (0.36 g, 2.2 mmol) was added at room temperature. The resulting mixture was allowed to stand at room temperature overnight, and saturated brine was added. The mixture was extracted with ethyl acetate and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting crude product was purified by column chromatography on silica gel (ethyl acetate--n-hexane) to give the title compound (0.46 g) as an oil.

reactant | (E)-2-[2-(hydroxymethyl)phenyl]-2-methoxyimino-N-methylacetamide | 2 mmol, 0.44 g | OCC1=C(C=CC=C1)\C(\C(=O)NC)=N/OC | C11H14N2O3
reactant | sodium hydride | 2.4 mmol, 0.10 g | [H-].[Na+]
reactant | 2-chloroquinoline | 2.2 mmol, 0.36 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | (E)-2-[2-(2-quinolinyloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide | 0.46 g | N1=C(C=CC2=CC=CC=C12)OCC1=C(C=CC=C1)\C(\C(=O)NC)=N/OC | C20H19N3O3
